US07723330B2
Step E: Preparation of 4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carboxylic acid:
A mixture of 4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carbonitrile (0.42 g, 1.95 mmol) and H2SO4 (4.16 mL, 78.1 mmol) was stirred at ambient temperature for 17 hours. Then the reaction mixture (amide intermediate) was added to MeOH (50 mL), and then the reaction was heated at 70° C. for 2.5 hours. The reaction mixture was quenched with ice-water and treated with aqueous 2N NaOH solution at 0° C. The mixture was acidified with aqueous 1N HCl, extracted with EtOAc, dried over MgSO4, and concentrated to afford 0.315 g of the desired product (69% for 3-step process in one pot reaction), which was rinsed with Et2O.

reactant | 4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carbonitrile | 1.95 mmol, 0.42 g | FC1=CC=C(C=C1)N1C(C(=NC=C1)C#N)=O | C11H6FN3O
reactant | H2SO4 | 78.1 mmol, 4.16 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 50 mL | CO | CH4O
product | 4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carboxylic acid | 0.315 g, 69% | FC1=CC=C(C=C1)N1C(C(=NC=C1)C(=O)O)=O | C11H7FN2O3
